US08076488B2
Preparation of 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-N-Pyridin-3-ylpyridine-2-carboxamide
The title compound was prepared in the same manner described for 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}-amino)phenoxy]-N-(2-piperidin-1-ylethyl)pyridine-2-carbox-amide, substituting 3-aminopyridine for 1-(2-aminoethyl)piperidine. 1H-NMR (DMSO-d6) δ 10.39 (s, 1H), 8.93 (s, 1H), 8.72 (s, 1H), 8.63 (d, J=5.4 Hz, 1H), 8.38 to 8.36 (m, 1H), 8.19 (d, J=8.4 Hz, 1H), 7.91 to 7.86 (m, 3H), 7.85 to 7.51 (m, 3H), 7.42 (t, J=2.1 Hz, 1H), 7.52 to 7.17 (m, 4H), 6.85 (dd, J=2.4, 1.5 Hz, 1H), 3.98 (s, 3H); MS LC-MS (M+H)+=480.1, RT=2.81 min.

reactant | 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}-amino)phenoxy]-N-(2-piperidin-1-ylethyl)pyridine-2-carbox-amide | CN1N=CC2=CC(=CC=C12)NC(=O)NC=1C=C(OC2=CC(=NC=C2)C(=O)NCCN2CCCCC2)C=CC1 | C28H31N7O3
reactant | 1-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
product | 4-[3-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-N-Pyridin-3-ylpyridine-2-carboxamide | CN1N=CC2=CC(=CC=C12)NC(=O)NC=1C=C(OC2=CC(=NC=C2)C(=O)NC=2C=NC=CC2)C=CC1 | C26H21N7O3
